US04742052
To β-alanine (1.14 g) in 4N sodium hydroxide (7.8 ml) was added p-nitrobenzyl chloroformate (3 g) in dioxane (8 ml) with ice-cooling and stirred for 1 hour. The reaction mixture was filtered and the filtrate was neutralized with hydrochloric acid. The resulting precipitate was collected to give N-p-nitrobenzyloxycarbonyl-β-alanine, which was then converted into the corresponding acid chloride by reaction with thionyl chloride.

reactant | β-alanine | 1.14 g | NCCC(=O)O | C3H7NO2
reactant | p-nitrobenzyl chloroformate | 3 g | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
solvent | sodium hydroxide | 4N, 7.8 ml | [OH-].[Na+]
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | N-p-nitrobenzyloxycarbonyl-β-alanine | [N+](=O)([O-])C1=CC=C(COC(=O)NCCC(=O)O)C=C1 | C11H12N2O6
